US05407945
Using a similar procedure to that described in Example 1, 4-mercapto-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran was reacted with isopropyl iodide to give 4-isopropylthio-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran in 67% yield, as an oil.

reactant | 4-mercapto-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran | SC1(CCOCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C22H22O2S
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 4-isopropylthio-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran | 67% yield | C(C)(C)SC1(CCOCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C25H28O2S
